US09283555B2
N1-(2-(phenylthio)phenyl)benzamidine (Amidine XIII)
Procedure as described for Amidine I using the following amounts and modifications: 10.06 g of 2-phenylthioaniline (50.0 mmol); 25.0 mL of 2.0 M butyllithium (50.0 mmol), 5.20 mL of benzonitrile (51.0 mmol). After refluxing overnight, the solution was green-brown. Addition of water yielded a light brown solution with suspended solid. Solution was taken to dryness, resuspended in 75 mL of pentane, filtered, washed with 10 mL of pentane and dried in vacuo yielding 10.56 g (69%) of beige powder. NMR (400 MHz, C6D6): 7.76 (d, 2H), 7.42 (d, 2H), 7.31 (d, 1H), 7.1-6.8 (m, 8 H), 6.78(t, 1H), 4.08 (s, 2H).

reactant | 2-phenylthioaniline | 50.0 mmol, 10.06 g | C1(=CC=CC=C1)SC1=C(N)C=CC=C1 | C12H11NS
reactant | butyllithium | 50.0 mmol, 2.0 M, 25.0 mL | C(CCC)[Li]
reactant | benzonitrile | 51.0 mmol, 5.20 mL | C(C1=CC=CC=C1)#N | C7H5N
reactant | water | O | H2O
solvent | pentane | 75 mL | CCCCC | C5H12
product | N1-(2-(phenylthio)phenyl)benzamidine | 10.56 g, 69% | C1(=CC=CC=C1)SC1=C(C=CC=C1)NC(C1=CC=CC=C1)=N | C19H16N2S
